US04716167
A mixture of ethyl 2-amino-7-(1,2-epoxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate (800 mg), 5% palladium-carbon (700 mg), ethanol (50 ml) and tetrahydrofuran (150 ml) was subjected to catalytic reduction for two hours at room temperature under ordinary pressure. Then, the catalyst was filtered off, and the filtrate was concentrated to dryness. The concentrate was purified by means of a silica-gel (80 g) column chromatography using chloroform-acetone-formic acid (9:1:0.1). The solvent was evaporated off, and the residue was recrystallized from chloroform to yield colorless prisms (499 mg) of ethyl 2-amino-7-(2hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylate, m.p. 255°-256° C.

reactant | ethyl 2-amino-7-(1,2-epoxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate | 800 mg | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C1(CO1)C)C(=O)OCC | C18H16N2O5
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 700 mg | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 2-amino-7-(2hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylate | 499 mg | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(CO)C)C(=O)OCC | C18H18N2O5
